US06482843B1
Synthesis of Methyl 5-Chlorocarbonyl-1H-benzimidazole-2-carbamate
7.4 mL (12.069 g, 101.4 mmol) thionyl chloride and 1.80 g (7.66 mmol) methyl 5-carboxy-1H-benzimidazole-2-carbamate in 37 mL dry benzene were heated to reflux under argon for 3.5 hours. The mixture was then cooled to 23° C. and the solvent and excess thionyl chloride were distilled under reduced pressure. The resulting brown solid was stored under vacuum to remove all traces of thionyl chloride and used in the following Examples without further purification.

reactant | thionyl chloride | 101.4 mmol, 7.4 mL, 12.069 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 5-carboxy-1H-benzimidazole-2-carbamate | 7.66 mmol, 1.80 g | C(=O)(O)C1=CC2=C(NC(=N2)NC(=O)OC)C=C1 | C10H9N3O4
solvent | benzene | 37 mL | C1=CC=CC=C1 | C6H6
product | Methyl 5-Chlorocarbonyl-1H-benzimidazole-2-carbamate | ClC(=O)C1=CC2=C(NC(=N2)NC(=O)OC)C=C1 | C10H8ClN3O3
